Test OpAmp Tran

*.OPTIONS RELTOL=.0001
***************************************
* Step 1: Replace circuit netlist here.
*************************************** 
* Design netlist (needs manual inclusion)
* Design variables (needs manual inclusion)

.param mc_mm_switch=0
.param mc_pr_switch=0

.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice

.PARAM supply_voltage = 1.8
.PARAM VCM_ratio = 0.25
.PARAM PARAM_CLOAD =500.00p 
.PARAM val0 = 3.000000e-01
.PARAM val1 = 5.000000e-01
.PARAM GBW_ideal = 5e4
.PARAM STEP_TIME = '10/GBW_ideal'
.PARAM TRAN_SIM_TIME = '20/GBW_ideal + 1e-6'



V1 vdd 0 'supply_voltage'
V2 vss 0 0 

* Circuit List:
* Leung_NMCNR_Pin_3
* Leung_NMCF_Pin_3
* Leung_DFCFC1_Pin_3
* Leung_DFCFC2_Pin_3

* XOP gnda vdda vinn vinp vout
*        |  |     |     |   |
*        |  |     |     |   Output
*        |  |     |     Non-inverting Input
*        |  |      Inverting Input
*        |  Positive Supply
*        Negative Supply 

***************************************
* Step 3: Replace circuit name below.
* e.g. Leung_NMCNR_Pin_3 -> Leung_NMCF_Pin_3
*************************************** 
*Transient  TB  
VVISR visr 0 pulse('val0' 'val1' 1u 1p 1p '1*STEP_TIME' 1)
xop6 vss vdd vout3 visr vout3 HoiLee_AFFC_Pin_3
CLoad6 vout3 0 'PARAM_CLOAD'

.meas tran t_rise_edge when v(vout3)=0.4 rise=1
.meas tran t_rise_ param='t_rise_edge-1u'
.meas tran t_rise param='t_rise_*1e6'
.meas tran sr_rise param='0.1/t_rise'

.meas tran t_fall_edge when v(vout3)=0.4 fall=1
.meas tran t_fall param='t_fall_edge-1u-STEP_TIME'
.meas tran t_fall param='t_fall_*1e6'
.meas tran sr_fall param='0.1/t_fall'


Vdd VDD 0 DC 1.8
Vss VSS 0 DC 0
.option gmin=1e-12
.control

tran 1u 4.01e-4
plot v(visr) v(vout3)
write tran.dat v(vout3)
.endc

.end
